US04443435
The Preparation of N-acetyl-S-benzamidomethyl-L-cysteine
N-acetyl-L-cysteine (0.5 g, 3.06 mmol) was dissolved in 50 ml of dry dioxane. Chloromethyl benzamide (0.52 g, 3.06 mmol) was added and the colorless solution was stirred at 25° C. for 18 hours. The dioxane was evaporated under vacuum with minimal amount of heating to give a colorless oil: NMR (CDCl3 +DMSO) δ8.05-7.38 (m, 5, aryl), 4.58 (d, 2, --SCH2NH--), 2.01 (s, 3, --CH3).

reactant | N-acetyl-L-cysteine | 3.06 mmol, 0.5 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | Chloromethyl benzamide | 3.06 mmol, 0.52 g | ClCC1=C(C(=O)N)C=CC=C1 | C8H8ClNO
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | N-acetyl-S-benzamidomethyl-L-cysteine | C(C)(=O)N[C@@H](CSCNC(C1=CC=CC=C1)=O)C(=O)O | C13H16N2O4S
